US07084163B2
Methyl-4-chloro-5-methoxycarbonyl-nicotinate
A mixture of 16.38 g (77.6 mmol) of 4-oxo-1,4-dihydro-pyridine-3,5-dicarboxylic acid dimethyl ester (prepared according to the method described in S. Zupancic, Heterocycles; 2000; 2033–2042) and 0.5 ml of DMF in 150 ml of thionyl chloride is heated at reflux for 2 hours. Excess thionyl chloride is removed under vacuum and the residue is added to aqueous NaHCO3, and extracted in ethyl acetate. The phases are separated and the organic layer is dried and evaporated. The residue is washed with aqueous K2CO3 and water, and dried. There is obtained 7.35 g (41% yield) of white solid (M+1=230).

reactant | 4-oxo-1,4-dihydro-pyridine-3,5-dicarboxylic acid dimethyl ester | 77.6 mmol, 16.38 g | COC(=O)C1=CNC=C(C1=O)C(=O)OC | C9H9NO5
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | Methyl-4-chloro-5-methoxycarbonyl-nicotinate | 7.35 g, 41% yield | COC(C1=CN=CC(=C1Cl)C(=O)OC)=O | C9H8ClNO4
